US08222416B2
A mixture of 1-benzenesulfonyl-2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-2-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (0.36 g, 6.9 mmol) in ethanol (3 mL), tetrahydrofuran (3 mL) and an aqueous sodium hydroxide solution (10%, 1 mL) was heated at 50° C. for 2 h. The mixture was diluted with dichloromethane (50 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-2-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (220 mg, 84%): LC/MS m/e calcd for C21H22N2O3S [M+H]+ 383.49, observed 383.1.

reactant | 1-benzenesulfonyl-2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-2-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 6.9 mmol, 0.36 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC2OCCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C27H26N2O5S2
reactant | sodium hydroxide | 1 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-2-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 220 mg, 84% | CS(=O)(=O)C1=CC=C(C=C1)C(=CC1OCCCC1)C1=CC=2C(=NC=CC2)N1 | C21H22N2O3S
